US08802663B2
Step 1: 2-(3-(2,5-difluorophenyl)-1,2,4-oxadiazol-5-yl)-1-o-tolylethanone
A solution of ethyl 3-oxo-3-o-tolylpropanoate (0.44 mL; 2.5 mmol) and 2,5-difluoro-N′-hydroxybenzenecarboximidamide (JRD-Fluorochemical, 215 mg; 1.25 mmol) in toluene (1.5 mL) was heated to 120° C. 18 hours. The solvent was removed in vacuo and the residue purified by flash chromatography on a Biotage 25+M column, eluting with petrol containing increasing amounts of EtOAc. The residue was triturated with petrol to give the title compound as an off-white solid which was used directly without any further purification. 1H NMR (CDCl3, 400 MHz) δ 11.62‡ (1H, br s), 7.82-7.74 (1H, m), 7.55-7.12 (6H, m), 5.95‡ (1H, s), 4.68* (2H, s), [2.58, 2.55 and 2.47] (3H, s) (compound isolated as a mixture of keto and enol forms and as a mixture of rotamers, *=keto form, ‡=enol form). LC/MS: 315 (M+H)+. HPLC (Method D) Rt=4.28 min (Purity: 98.4%).

reactant | ethyl 3-oxo-3-o-tolylpropanoate | 2.5 mmol, 0.44 mL | O=C(CC(=O)OCC)C1=C(C=CC=C1)C | C12H14O3
reactant | 2,5-difluoro-N′-hydroxybenzenecarboximidamide | 1.25 mmol, 215 mg | FC1=C(C=C(C=C1)F)C(N)=NO | C7H6F2N2O
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-(2,5-difluorophenyl)-1,2,4-oxadiazol-5-yl)-1-o-tolylethanone | FC1=C(C=C(C=C1)F)C1=NOC(=N1)CC(=O)C1=C(C=CC=C1)C | C17H12F2N2O2
